US03972888
1 g of 4-methyl-6-(4-tolyl)-2-pyrone, 0.6 g of hydroxylamine hydrochloride and 4 g of 2-aminopyridine were heated for 1 hour to 80° C. After the usual working up, 0.173 g (16.1 %) of 1-hydroxy-4-methyl-6-(4-tolyl)-2-pyridone melting at 125° C (calc.: 6.5 % N, found: 6,6 % N) were isolated. When using pyridine instead of aminopyridine under otherwise equal reaction conditions, the yield was 0.012 g (1.1 %) only.

reactant | 4-methyl-6-(4-tolyl)-2-pyrone | 1 g | CC1=CC(OC(=C1)C1=CC=C(C=C1)C)=O | C13H12O2
reactant | hydroxylamine hydrochloride | 0.6 g | Cl.NO
reactant | 2-aminopyridine | 4 g | NC1=NC=CC=C1 | C5H6N2
product | 1-hydroxy-4-methyl-6-(4-tolyl)-2-pyridone | 0.173 g | ON1C(C=C(C=C1C1=CC=C(C=C1)C)C)=O | C13H13NO2
